US03962321
Pyridine (100 ml) and trans-2-nonen-1-ol (28.4 g, 0.2 mole) are heated to 110°C and acetic anhydride (30.6 g, 0.3 mole) is added dropwise. The reaction mixture is maintained at 110°-115° for 2 hours and 120°-125°C for 3 hours. The mixture is cooled and washed with water, 5% sulfuric acid, and finally water. The solution is dried over sodium sulfate. Trans-2-nonenyl acetate, 33.0 g is obtained by vacuum distillation, b.p. 70°-5°C/50-55 mm.

reactant | trans-2-nonen-1-ol | 0.2 mole, 28.4 g | C(\C=C\CCCCCC)O | C9H18O
reactant | acetic anhydride | 0.3 mole, 30.6 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | Pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | Trans-2-nonenyl acetate | C(C)(=O)OC\C=C\CCCCCC | C11H20O2
